US08232278B2
Synthesis of 2-methyl-4-(2-methoxyethoxy)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine
Sodium hydride (80 mg of a 60% dispersion in mineral oil, 2.0 mmol) was added to 2-methoxyethanol (10 ml). The mixture was stirred at room temperature for 10 minutes. Then, 2-methyl-4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine (110 mg, 0.4 mmol) was added to this solution. The resulting mixture was stirred at room temperature for another 40 minutes. After concentration under reduced pressure, the residue was purified by silica gel flash chromatography, the mobile phase being a mixture of ethanol and dichloromethane, in a volume ratio of 1:100, affording the pure title compound (110 mg, yield 88%) as a white solid which was characterised as follows: MS (m/z): 314 ([M+H]+, 100).

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-methyl-4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 0.4 mmol, 110 mg | CC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)Cl | C14H9ClFN3
reactant | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
product | 2-methyl-4-(2-methoxyethoxy)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 110 mg, yield 88% | CC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)OCCOC | C17H16FN3O2
